US06608049B2
Analogously to the procedure of Example X, starting from 1.31 g (4.42 mmol) of E/Z-1-[5-(benzyloxy)-2-nitrophenyl]-2-buten-1-one with 0.17 g of palladium/carbon (10%) in 30 ml of ethanol under hydrogen, after 3 h 770 mg (97%) of 1-(2-amino-5-hydroxyphenyl)-1-butanone are obtained.

reactant | Z-1-[5-(benzyloxy)-2-nitrophenyl]-2-buten-1-one | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(\C=C/C)=O)[N+](=O)[O-] | C17H15NO4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.17 g | [Pd] | Pd
product | 1-(2-amino-5-hydroxyphenyl)-1-butanone | 770 mg, 97% | NC1=C(C=C(C=C1)O)C(CCC)=O | C10H13NO2
